US05374772
A mixture of 0.90 g (5.3 mmol) of 3,5-dihydroxybenzoic acid methyl ester, 2.95 g (11.8 mmol) of 2-(2-bromoethoxy)naphthalene, 1.8 g (11.8 mmol) of sodium iodide and 3 g (21.7 mmol) of potassium carbonate in 80 mL of acetone and 25 mL of DMF was stirred at reflux for 40 hours. The solvents were removed at reduced pressure, water was added to the residue and the product was extracted with ethyl acetate. The dried extract was concentrated to a solid which was recrystallized from ethyl acetate to give 1.6 g (59% yield, mp 132°-137°) of 3,5-bis[2-[2-(naphthalenyloxy) ethoxy]benzoic acid methyl ester.

reactant | 3,5-dihydroxybenzoic acid methyl ester | 5.3 mmol, 0.90 g | COC(C1=CC(=CC(=C1)O)O)=O | C8H8O4
reactant | 2-(2-bromoethoxy)naphthalene | 11.8 mmol, 2.95 g | BrCCOC1=CC2=CC=CC=C2C=C1 | C12H11BrO
reactant | sodium iodide | 11.8 mmol, 1.8 g | [I-].[Na+]
reactant | potassium carbonate | 21.7 mmol, 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 80 mL | CC(=O)C | C3H6O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 2-[2-(naphthalenyloxy) ethoxy]benzoic acid methyl ester | 59% yield | COC(C1=C(C=CC=C1)OCCOC1=CC=CC2=CC=CC=C12)=O | C20H18O4
